US06362177B1
Sodium cyanoborohydride (140 mmol) in methanol (0.4 mL) was added to a mixture of 4-[(N-(2-amino-5-chlorobenzoyl)glycyl)aminomethyl]piperidine (0.10 mmol), 4-ethoxybenzaldehyde (0.10 mmol), acetic acid (0.050 mL), and methanol (1.6 mL). The reaction mixture was stirred at 60° C. for 14 h. The reaction mixture was loaded onto Varian™ SCX column and washed with CH3OH (20 mL). Product was eluted using 2 N NH3 in CH3OH (6 mL) and concentrated. Preparative TLC (SiO2, AcOEt/CH3OH 5:1) afforded 4-[{N-(2-amino-5-chlorobenzoyl)glycyl}aminomethyl]-1-(4-ethoxybenzyl)piperidine (Compound No. 1429) and 1-(4-ethoxybenzyl)-4-[{N-(2-(4-ethoxybenzyl)amino-5-chlorobenzoyl)glycyl)aminomethyl]piperidine (Compound No. 1433).

reactant | Sodium cyanoborohydride | 140 mmol | C(#N)[BH3-].[Na+]
reactant | 4-[(N-(2-amino-5-chlorobenzoyl)glycyl)aminomethyl]piperidine | 0.10 mmol | NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)Cl | C15H21ClN4O2
reactant | 4-ethoxybenzaldehyde | 0.10 mmol | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | acetic acid | 0.050 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 0.4 mL | CO | CH4O
solvent | methanol | 1.6 mL | CO | CH4O
product | 4-[{N-(2-amino-5-chlorobenzoyl)glycyl}aminomethyl]-1-(4-ethoxybenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)OCC)C=C(C=C1)Cl | C24H31ClN4O3
